US06451814B1
4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-3-methanesulfonylamino-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acidoctylamide
4-[4-(2-Aminoethyl)anilino]-N-octyl-1-piperidinecarboxamide formate (0.516 g, 1.2 mmol) was reacted with N-{2-(benzyloxy)-5-[(2S)oxiranylmethoxy]phenyl} methanesulfonamide (prepared according to patent WO9604233) (0.38 g, 1.09 mmol) according to Procedure G (eluant: 20:1 chloroform-methanol) to give the title compound (0.15 g, 0.207 mmol).

reactant | 4-[4-(2-Aminoethyl)anilino]-N-octyl-1-piperidinecarboxamide formate | 1.2 mmol, 0.516 g | C(=O)O.NCCC1=CC=C(NC2CCN(CC2)C(=O)NCCCCCCCC)C=C1
reactant | N-{2-(benzyloxy)-5-[(2S)oxiranylmethoxy]phenyl} methanesulfonamide | 1.09 mmol, 0.38 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)OC[C@H]1OC1)NS(=O)(=O)C | C17H19NO5S
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 4-(4-{2-[(2S)-2-Hydroxy-3-(4-hydroxy-3-methanesulfonylamino-phenoxy)-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acidoctylamide | 0.207 mmol, 0.15 g | C(CCCCCCC)NC(=O)N1CCC(CC1)NC1=CC=C(C=C1)CCNC[C@@H](COC1=CC(=C(C=C1)O)NS(=O)(=O)C)O | C32H51N5O6S
